US08431695B2
Step 4: Preparation of benzyl 3-[(1E)-N-(tert-butoxycarbonyl)-4,4-dimethoxybutane-hydrazonoyl]azetidine-1-carboxylate
A solution of benzyl 3-(4,4-dimethoxybutanoyl)azetidine-1-carboxylate (1.91 g, 5.94 mmol) in CH2Cl2 (30 mL) was treated with Pert-butylcarbazate (824 mg, 6.24 mmol) followed by para-toluensulfonic acid monohydrate (170 mg, 0.89 mmol). The reaction was stirred at rt for 16 h. The mixture was washed with H2O (25 mL), saturated aqueous NaHCO3 (25 mL), and brine. The organic phase was dried (Na2SO4), filtered and concentrated to afford 2.47 (95%) of the desired product. ES-MS m/z 458.47 [M+Na]+, HPLC RT (min) 3.32.

reactant | benzyl 3-(4,4-dimethoxybutanoyl)azetidine-1-carboxylate | 5.94 mmol, 1.91 g | COC(CCC(=O)C1CN(C1)C(=O)OCC1=CC=CC=C1)OC | C17H23NO5
reactant | butylcarbazate | 6.24 mmol, 824 mg | C(CCC)OC(NN)=O | C5H12N2O2
reactant | para-toluensulfonic acid monohydrate | 0.89 mmol, 170 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | benzyl 3-[(1E)-N-(tert-butoxycarbonyl)-4,4-dimethoxybutane-hydrazonoyl]azetidine-1-carboxylate | C(C)(C)(C)OC(=O)N/N=C(\CCC(OC)OC)/C1CN(C1)C(=O)OCC1=CC=CC=C1 | C22H33N3O6
